US07288677B2
Diethyl(methyl)-1,3-benzenediamine, as a mixture of its 2,4-diethyl-6-methyl- and 4,6-diethyl-2-methyl-isomers (10.0 g; Ethacure® 100, Albemarle Corporation), Pt(S)/C (0.5 g), Amberlyst-15 (0.5 g), and methyl ethyl ketone (50 g) were charged into a 100 mL metal autoclave at 22° C. The closed autoclave was purged 3 times with 125 psig (9.63×105 Pa) of H2 at 22° C. to remove traces of air. The reaction mixture was then heated at 120° C. under 125 psig (9.63×105 Pa) of H2 for 5.5 hrs (until no further H2 uptake was observed). The product mixture was cooled to 22° C. and degassed. A diluted product sample was analyzed by GC (100° C. for 5 minutes at 10° C. per minute rate; final temperature, 270° C.). The GC data (normalization method) showed 100% conversion of diethyl(methyl)-1,3-benzenediamine, and a 96.5% yield of N,N′-di-sec-butyl-[diethyl(methyl)-1,3-benzenediamine].

reactant | Diethyl(methyl)-1,3-benzenediamine | C(C)C1=CC(=C(C(=C1N)C)N)CC | C11H18N2
catalyst | Pt(S)/C | 0.5 g | [Pt] | Pt
solvent | methyl ethyl ketone | 50 g | C(C)C(=O)C | C4H8O
product | N,N′-di-sec-butyl-[diethyl(methyl)-1,3-benzenediamine] | 96.5% yield | C(C)(CC)NC1=C(C(=C(C=C1CC)CC)NC(C)CC)C | C19H34N2
